US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-pyrimidyl)piperazine (Compound 168)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(2-pyrimidyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 86%). 1H NMR (300 MHz, CDCl3): δ 3.67-3.70 (m, 4H), 3.90 (s, 3H), 3.95-3.97 (m, 4H), 4.13 (s, 3H), 6.53 (t, J=4.8 Hz, 1H), 7.11-7.23 (m, 4H), 7.30 (d, J=9.3 Hz, 1H), 8.33 (d, J=4.8 Hz, 2H).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(2-pyrimidyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-pyrimidyl)piperazine | 86% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=NC=CC=N1 | C19H21N7O3
